US08207172B2
To a solution of 4-(3-Chloro-4-fluoro-phenylamino)-8-dimethylaminomethylene-5,8-dihydro-6H-benzo[4,5]thieno[2,3-d]pyrimidin-7-one (100 mg, 0.25 mmol) in anhydrous ethanol (2 mL) was added hydrazine (12 mg, 0.37 mmol). The resulting mixture was stirred at rt for 5 h. The solid was filtered and washed with EtOAc and then with water. It yielded N-(3-chloro-4-fluorophenyl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine as a red solid (52 mg, 56%). 1H-NMR (DMSO-d6) δ 12.73 (s, 1H), 8.58 (s, 1H), 8.39 (s, 1H), 7.99 (s, 1H), 7.88 (s, 1H), 7.61 (m, 1H), 7.40 (t, 1H), 3.40 (t, 2H), 2.96 (t, 2H); LCMS RT=2.98 min; [M+H]+=372.3.

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-8-dimethylaminomethylene-5,8-dihydro-6H-benzo[4,5]thieno[2,3-d]pyrimidin-7-one | 0.25 mmol, 100 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)SC1=C2CCC(C1=CN(C)C)=O | C19H16ClFN4OS
reactant | hydrazine | 0.37 mmol, 12 mg | NN | H4N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-chloro-4-fluorophenyl)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 52 mg, 56% | ClC=1C=C(C=CC1F)NC=1N=CN=C2C1C1=C(C3=CNN=C3CC1)S2 | C17H11ClFN5S
